US07417247B2
250 g (2.08 mol) of p-methylbenzaldehyde were condensed with the aid of 30 g (0.46 mol) of KCN to give 4,4′-dimethylbenzoin according to a standard method (Organikum 18th edition (1990) 457). The crude product was used without further purification (yield, crude: found: C, 80.0%, H, 6.4%. calculated: 79.97%, H, 6.71%). The IR spectrum of 4,4′-dimethylbenzoin is shown in FIG. 8.

reactant | p-methylbenzaldehyde | 2.08 mol, 250 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | KCN | 0.46 mol, 30 g | [C-]#N.[K+]
product | 4,4′-dimethylbenzoin | CC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)C | C16H16O2
